US07384931B2
(R)-4-chloro-7-hydroxy-9-(2,2,2-trifluoroethyl)-6,7,9,10-tetrahydroazepino[3,4-e]indazol-8(3H)-one (60.0 mg, 0.180 mmol) in THF (10.0 mL, 122 mmol) was added sodium hydride (10.79 mg, 0.450 mmol) followed by 4-nitrophenyl 4-(2-oxo-1,2-dihydroquinolin-3-yl)piperidine-1-carboxylate (106 mg, 0.270 mmol). After stirring for 48 h, most of the solvent was removed, diluted with dichloromethane (30 mL) and neutralized with 1.0 M HCl. The organic phase was separated, dried (Na2SO4) and the crude product was purified by flash chromatography using 5% MeOH in dichloromethane to give (R)-4-chloro-8-oxo-9-(2,2,2-trifluoroethyl)-3,6,7,8,9,10-hexahydroazepino[3,4-e]indazol-7-yl 4-(2-oxo-1,2-dihydroquinolin-3-yl)piperidine-1-carboxylate (38.00 mg, 0.065 mmol, 36% yield). MS (ESI) 588 (M+H); Rf=2.73.

reactant | (R)-4-chloro-7-hydroxy-9-(2,2,2-trifluoroethyl)-6,7,9,10-tetrahydroazepino[3,4-e]indazol-8(3H)-one | 0.180 mmol, 60.0 mg | ClC1=CC2=C(C=3C=NNC13)CN(C([C@@H](C2)O)=O)CC(F)(F)F | C13H11ClF3N3O2
reactant | THF | 122 mmol, 10.0 mL | C1CCOC1 | C4H8O
reactant | sodium hydride | 0.450 mmol, 10.79 mg | [H-].[Na+]
reactant | 4-nitrophenyl 4-(2-oxo-1,2-dihydroquinolin-3-yl)piperidine-1-carboxylate | 0.270 mmol, 106 mg | O=C1NC2=CC=CC=C2C=C1C1CCN(CC1)C(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C21H19N3O5
product | (R)-4-chloro-8-oxo-9-(2,2,2-trifluoroethyl)-3,6,7,8,9,10-hexahydroazepino[3,4-e]indazol-7-yl 4-(2-oxo-1,2-dihydroquinolin-3-yl)piperidine-1-carboxylate | 0.065 mmol, 38.00 mg, 36% yield | O=C1NC2=CC=CC=C2C=C1C1CCN(CC1)C(=O)O[C@@H]1CC2=C(C=3C=NNC3C(=C2)Cl)CN(C1=O)CC(F)(F)F | C28H25ClF3N5O4
